US06747023B1
5-(t-Butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
To a solution of 5-(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine (33.0 mg) in N,N-dimethylformamide (15 ml), sodium hydride (60% in oil, 3.5 mg) was added at 0° C. After stirring for 10 minutes, methyl iodide (4.5 μl) was added and the resulting mixture was stirred at 0° C. for 1 hour. To the reaction mixture, a saturated aqueous solution (10 ml) of ammonium chloride, methylene chloride (20 ml) and water (30 ml) were added to separate the organic layer. The resulting water layer was extracted with methylene chloride (10 ml). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative thin-layer chromatography on a silica gel (methylene chloride:acetone=9:1), whereby the title compound (32.3 mg) was obtained as a colorless, transparent viscous substance.

reactant | 5-(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 33.0 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NC(=C2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H31ClN4O5S
reactant | sodium hydride | 3.5 mg | [H-].[Na+]
reactant | methyl iodide | 4.5 μl | CI | CH3I
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-(t-Butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=C2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl)C | C28H33ClN4O5S
